US08497263B2
To a mixture of 3-t-butyl-5-[4-(3-t-butoxy carbonylamino-5-isoxazolyl)-phenyl]-4-(2-methoxyphenyl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one (0.036 g, 0.7 mmol) and methanol (2 mL), conc. hydrochloric acid (0.07 mL) was added, and the mixture was stirred at 60° C. for 2 hr. The precipitate was collected by filtration and recrystallized (methanol/dichloromethane) to give 3-t-butyl-5-[4-(3-amino-5-isoxazolyl)phenyl]-4-(2-methoxyphenyl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one (0.02 g, 68%) as pale yellow crystals.

reactant | 3-t-butyl-5-[4-(3-t-butoxy carbonylamino-5-isoxazolyl)-phenyl]-4-(2-methoxyphenyl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one | 0.7 mmol, 0.036 g | C(C)(C)(C)C=1C2=C(NN1)C(N(C2C2=C(C=CC=C2)OC)C2=CC=C(C=C2)C2=CC(=NO2)NC(=O)OC(C)(C)C)=O | C30H33N5O5
reactant | hydrochloric acid | 0.07 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 3-t-butyl-5-[4-(3-amino-5-isoxazolyl)phenyl]-4-(2-methoxyphenyl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one | 0.02 g, 68% | C(C)(C)(C)C=1C2=C(NN1)C(N(C2C2=C(C=CC=C2)OC)C2=CC=C(C=C2)C2=CC(=NO2)N)=O | C25H25N5O3
